datasets/10k_Mayr_OG.csv
SMILES Labelled
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N-:10]2>>Br[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C:61]3=[C:62](C=NC=N3)[N:72]=[CH:71]2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[Si:63](C)(C)[O:12]/[C:11](=[CH:10]\C1=CC=CC=C1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=CC=C2)[C:11](=[O+:12][Si:63](C)(C)C)[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH-:10][C:61]#[N:62])[CH:84]=[CH:85]1.[CH2:20]=[CH:21][C:22]#[N:23]>>FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]([CH2:20][CH:21]=[C:22]=[N-:23])[C:61]#[N:62])[CH:84]=[CH:85]1 10=20;20,21=21,22;22,23=23"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([Br:65])[CH:73]=[CH:72]1>>C1C[C:21]([CH2:20][CH:10]([N+:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([Br:65])[CH:73]=[CH:72]2)=[C:22]([O-:23])[O:33]C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1CC[C:20](=[O:21])CC1.C[C:11](C1CC1)=[CH2:10]>>CN1CC[C:20]([CH2:10][C+:11](C)C2CC2)([O-:21])CC1 10,11=10,20;20,21=21"
"CC[O:72]/[C:11](=[C:10](\[N+:61]#[N:62])[C:81](=[O:82])[O:92]CC)[O-:12].[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>CC[O:72][C:11]([C:10]([CH:20]1N2N=N[N:35]=[C:34]2[CH:33]=[CH:32][C:21]1=[N+:22]([O-])[O-:23])([N+:61]#[N:62])[C:81](=[O:82])[O:92]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[N:10]=[C:11](/C(F)(F)F)[O-:12].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[N:10]([C:11](C(F)(F)F)=[O:12])[CH:20]([C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"CCC[Si:11](CCC)(CCC)[H:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CCC[Si+:11](CCC)CCC.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.[C-:10]([C:81]#[N:82])([C:91]([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:92])[C:101]1=[CH:102][CH:103]=[CH:104][CH:113]=[CH:112]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]([C:81]#[N:82])([C:91]([C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)=[O:92])[C:101]2=[CH:102][CH:103]=[CH:104][CH:113]=[CH:112]2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34].[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([Br:65])[CH:73]=[CH:72]1>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[S:20][CH:10]([N+:11]#[N:12])[C:61]1=[CH:62][CH:63]=[C:64]([Br:65])[CH:73]=[CH:72]1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]([CH:21]=[C:22](C(C)(C)C)[O-:23])[C:31]3=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]3)=[O:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.FC(F)(F)[S:81](/[CH:10]=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:76])[CH:63]=[CH:62]1)(=[O:82])=[O:92]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:76])[CH:63]=[CH:62]2)[S:81](C(F)(F)F)(=[O:82])=[O:92])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"COC1=CC=CC=C1[P:10](C1=CC=CC=C1OC)C1=C(OC)C=CC=C1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>COC1=CC=CC=C1[P+:10](C1=CC=CC=C1OC)(C1=C(OC)C=CC=C1)[CH:20]1C=CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+] 10=20;20,21=21"
"C[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C+:11]([CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20"
